US07425551B2
c) (R)-2-Fluoro-N—[(S)-5-(2-methoxy-ethyl)-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl]-2-methyl-N′-(2,2,3,3,3-pentafluoro-propyl)-malonamide
Using (S)-2-fluoro-N—[(S)-5-(2-methoxy-ethyl)-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl]-2-methyl-malonamic acid and 2,2,3,3,3-pentafluoropropylamine, the title compound was prepared in the same manner as described for example 1c. White solid (71%). MS: m/e=532(M+H+).

reactant | (S)-2-fluoro-N—[(S)-5-(2-methoxy-ethyl)-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl]-2-methyl-malonamic acid | F[C@](C(=O)O)(C(=O)N[C@H]1C2=C(C3=C(N(C1=O)CCOC)C=CC=C3)C=CC=C2)C | C21H21FN2O5
reactant | 2,2,3,3,3-pentafluoropropylamine | FC(CN)(C(F)(F)F)F | C3H4F5N
product | (R)-2-Fluoro-N—[(S)-5-(2-methoxy-ethyl)-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl]-2-methyl-N′-(2,2,3,3,3-pentafluoro-propyl)-malonamide | F[C@@](C(=O)N[C@H]1C2=C(C3=C(N(C1=O)CCOC)C=CC=C3)C=CC=C2)(C(=O)NCC(C(F)(F)F)(F)F)C | C24H23F6N3O4
